US07662972B2
Step 3: Production of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-trifluoromethyl benzoic acid
In a solution of 0.40 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-trifluoromethyl benzoic acid methyl ester in 5 ml of methanol, a solution of 0.10 g of sodium hydroxide in 2 ml of water was added, and stirred at room temperature for 18 hours. After the completion of the reaction, 10 ml of water was added in the reaction mixture, washed with 5 ml of toluene, aqueous phase was collected, adjusted to pH 1 to 2 with concentrated hydrochloric acid and then extracted with ethyl acetate (20 ml×2). The organic phase was washed with water, dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to obtain 0.34 g of the aimed product as pale yellow resinous substance. The resulting product was used as such without purification for the next step.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-trifluoromethyl benzoic acid methyl ester | 0.40 g | COC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C(F)(F)F)=O | C19H11Cl2F6NO3
reactant | sodium hydroxide | 0.10 g | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-trifluoromethyl benzoic acid | 0.34 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C(F)(F)F)C(F)(F)F | C18H9Cl2F6NO3
